US03941826
A mixture of 78.4 g of 4-bromo-2,5-diisopropylbenzenethiol and 12.8 g of sodium hydroxide was stirred together in 200 ml of water while 50.4 g of dimethylsulfate was added at a rate to maintain the reaction temperature between 45°-55°C. After stirring for 3 hours at ambient temperature, the reaction mixture was extracted with ether. The ether solution, washed with half saturated sodium chloride solution and dried over sodium sulfate, was concentrated to an oil which was distilled to give 64 g of 4-bromo-2,5-diisopropylphenyl methyl sulfide, boiling at 91°-93°C at 0.15-0.1 mm Hg; ND23 1.5714.

reactant | 4-bromo-2,5-diisopropylbenzenethiol | 78.4 g | BrC1=CC(=C(C=C1C(C)C)S)C(C)C | C12H17BrS
reactant | sodium hydroxide | 12.8 g | [OH-].[Na+]
reactant | dimethylsulfate | 50.4 g | COS(=O)(=O)OC | C2H6O4S
solvent | water | 200 ml | O | H2O
product | 4-bromo-2,5-diisopropylphenyl methyl sulfide | 64 g | CSC1=C(C=C(C(=C1)C(C)C)Br)C(C)C | C13H19BrS
